US08980934B2
6-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-6-azaspiro[3.3]heptane
The title compound was synthesized according to method E, utilizing 6-(4-Iodophenyl)-2-oxa-6-azaspiro[3.3]heptane (720 mg, 2.4 mmol), bis(pinacolato)diboron (910 mg, 3.6 mmol), PdCl2(dppf) (98 mg, 0.12 mmol), KOAc (710 mg, 7.2 mmol) and DMSO (12 mL). The reaction was quenched with sat. NaHCO3 solution, extracted with EtOAc, dried (MgSO4), filtered, and concentrated to dryness. Purification by flash chromatography (Biotage Isolera, 50 g HP-SIL, 10-40% EtOAc in hexanes) gave the title compound as a white solid (440 mg, 60%). 1H NMR (400 MHz, CDCl3) δ ppm 7.68 (d, J=8.5 Hz, 2H), 6.43 (d, J=8.5 Hz, 2H), 4.85 (s, 4H), 4.07 (s, 4H), 1.33 (s, 12H); MS ESI 302.2 [M+H]+, calcd for [C17H24BNO3+H]+ 302.1.

reactant | 6-(4-Iodophenyl)-2-oxa-6-azaspiro[3.3]heptane | 2.4 mmol, 720 mg | IC1=CC=C(C=C1)N1CC2(COC2)C1 | C11H12INO
reactant | bis(pinacolato)diboron | 3.6 mmol, 910 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.2 mmol, 710 mg | CC(=O)[O-].[K+]
catalyst | PdCl2(dppf) | 0.12 mmol, 98 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | 6-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-oxa-6-azaspiro[3.3]heptane | 440 mg, 60% | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CC2(COC2)C1)C | C17H24BNO3
